US07446121B2
To a solution of 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid methyl ester (0.7920 g, 1.47 mmol) in MeOH (5 ml), NaOH solution (1.028N, 1.50 ml, 1.54 mmol) was added. The reaction mixture was stirred at 25° C. for 12 hrs. After solvent was evaporated, the crude product was dried azeotopically with toluene (×3). It was dissolved in MeOH/CH2Cl2 mixture (1:9, 10 ml) and diluted with CH2CI2 (15 ml). It was filtered through cotton and the filtrate was concentrated, trituated with Et2O for 12 hrs. The product was isolated by filtration and dried under vacuum at 60° C. for 12 hrs to afford (3R,5R)-7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid sodium salt (798 mg, 99%): MS(APCI+) 526.3 m/z (M+H); H-NMR (DMSO-d6) [Mixture of rotamers at 25° C.] δ 7.79-7.65, 7.58-7.46, 7.41-7.24, 7.22-7.07, 4.85-4.60, 3.62-3.58, 3.46-3.44, 2.89-2.85, 2.84, 2.74-2.66, 2.54-2.45, 2.29, 1.93-1.88,1.73-1.67, 1.53-1.10.

reactant | 7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid methyl ester | 1.47 mmol, 0.7920 g | COC(CC(CC(CCC=1N(N=C(C1C(C)C)C(N(CC1=C(C=CC=C1)C)C)=O)C1=CC=C(C=C1)F)O)O)=O | C30H38FN3O5
reactant | NaOH | 1.54 mmol, 1.028N, 1.50 ml | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | (3R,5R)-7-{2-(4-fluoro-phenyl)-4-isopropyl-5-[methyl-(2-methyl-benzyl)-carbamoyl]-2H-pyrazol-3-yl}-3,5-dihydroxy-heptanoic acid sodium salt | 798 mg, 99% | [Na+].FC1=CC=C(C=C1)N1N=C(C(=C1CC[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C)C(N(CC1=C(C=CC=C1)C)C)=O | InChI=1S/C29H36FN3O5.Na/c1-18(2)27-25(14-13-23(34)15-24(35)16-26(36)37)33(22-11-9-21(30)10-12-22)31-28(27)29(38)32(4)17-20-8-6-5-7-19(20)3;/h5-12,18,23-24,34-35H,13-17H2,1-4H3,(H,36,37);/q;+1/p-1/t23-,24-;/m1./s1
